US04476307
1-Phenyl-3-(hydroxymethylene)-2(1H,2H)-indolone
Potassium t-butoxide (1.63 g, 14.5 mmoles) and 5 ml absolute ethanol were heated to 80°. 1-Phenyl-2(1H,3H)-indolone (2.09 g, 10 mmoles) was added, followed by ethyl formate (1.09 ml, 13.5 mmoles). The mixture was heated 5 minutes, cooled to 25°, and the nearly solid mass diluted with 50 ml H2O and crushed ice, acidified to pH 3 with 3N HCl and title product recovered by filtration, 2.2 g, m.p. 192°-195°; m/e 237. cf J. Prakt. Chem. 135:345-360 (1932); J. Med. Chem. 8:637 (1965).

reactant | Potassium t-butoxide | 14.5 mmoles, 1.63 g | CC(C)([O-])C.[K+]
reactant | 1-Phenyl-2(1H,3H)-indolone | 10 mmoles, 2.09 g | C1(=CC=CC=C1)N1C(CC2=CC=CC=C12)=O | C14H11NO
reactant | ethyl formate | 13.5 mmoles, 1.09 ml | C(=O)OCC | C3H6O2
reactant | HCl | 3N | Cl | ClH
solvent | H2O | 50 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-Phenyl-3-(hydroxymethylene)-2(1H,2H)-indolone | C1(=CC=CC=C1)N1C(C(C2=CC=CC=C12)=CO)=O | C15H11NO2
